### PR TITLE
Use circuit_proof_start optional arguments where applicable

### PR DESCRIPTION
**Pull request by pirapira**
## Summary
Applied the new `circuit_proof_start [lemma1, lemma2, ...]` syntax introduced in PR #246 to simplify proof initialization in multiple files.

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

File: Clean/Gadgets/BLAKE3/BLAKE3G.lean [hunk 1]
```diff
@@ -77,7 +77,7 @@ def Spec (a b c d : Fin 16) (input : Inputs (F p)) (out : BLAKE3State (F p)) :=
   out.value = g state.value a b c d x.value y.value ∧ out.Normalized
 
 theorem soundness (a b c d : Fin 16) : Soundness (F p) (elaborated a b c d) Assumptions (Spec a b c d) := by
-  circuit_proof_start [BLAKE3State.Normalized, Xor32.circuit, Addition32.circuit, Rotation32.circuit, Rotation32.elaborated, and_imp,
+  circuit_proof_start [Assumptions, BLAKE3State.Normalized, Xor32.circuit, Addition32.circuit, Rotation32.circuit, Rotation32.elaborated, and_imp,
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/BLAKE3G.lean]:
```suggestion
  circuit_proof_start [BLAKE3State.Normalized, Xor32.circuit, Addition32.circuit, Rotation32.circuit, Rotation32.elaborated, and_imp,
```

File: Clean/Gadgets/BLAKE3/BLAKE3G.lean [hunk 2]
```diff
@@ -115,9 +115,7 @@ theorem soundness (a b c d : Fin 16) : Soundness (F p) (elaborated a b c d) Assu
     · simp only [Vector.getElem_map, getElem_eval_vector, h_input, h_assumptions]
 
 theorem completeness (a b c d : Fin 16) : Completeness (F p) (elaborated a b c d) Assumptions := by
-  circuit_proof_start
-
-  dsimp only [Assumptions, BLAKE3State.Normalized] at h_assumptions
+  circuit_proof_start [Assumptions, BLAKE3State.Normalized]
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/BLAKE3G.lean]:
```suggestion
  circuit_proof_start [BLAKE3State.Normalized]
```

**Review by pirapira — COMMENTED** [review]
`Assumptions` get simplified by default.
